US04022779
(c) 4-Amino-2-methyl-6-(4-methyl-1-piperazinyl)-5-nitropyridine-3-carboxylic acid ethyl ester
33.3 g. of 4-chloro-2-methyl-6-(4-methyl-1-piperazinyl)-5-nitropyridine-3-carboxylic acid ethyl ester (0.1 mol) are dissolved in about 100 ml. of alcohol. 50 ml. of aqueous ammonia solution (30%) are added and the mixture is heated in an autoclave at 80° for 10 hours. After this time, the solution is evaporated to dryness and the residue is extracted with hot alcohol. On cooling, 25.2 g. of 4-amino-2-methyl-6-(4-methyl-1-piperazinyl)-5-nitropyridine-3-carboxylic acid ethyl ester precipitate, (78%), m.p. 73°-75° (methanol).

reactant | 4-chloro-2-methyl-6-(4-methyl-1-piperazinyl)-5-nitropyridine-3-carboxylic acid ethyl ester | 0.1 mol | C(C)OC(=O)C=1C(=NC(=C(C1Cl)[N+](=O)[O-])N1CCN(CC1)C)C | C14H19ClN4O4
reactant | ammonia | N | H3N
product | 4-Amino-2-methyl-6-(4-methyl-1-piperazinyl)-5-nitropyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=C(C1N)[N+](=O)[O-])N1CCN(CC1)C)C | C14H21N5O4
